2150-01-25 07:44:00 Physician Resident Progress Note
Chief Complaint: 70 yo F with UC recently admitted to ICU with
   epistaxis, returns with epistaxis and hypoxia.
   24 Hour Events:
   Currently on high flow nebs/50% aerosolized face mask.
   Unresponsive to verbal commands, does not withdraw to painful stimulus
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2150-1-25**] 06:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Afrin
   Compazine
   Albuterol
   Nifedipine 10 mg PO q8H
   Metoprolol 25 mg PO BID
   Epopoeitin
   Risperidone
   Bacitracin
   Calcium Acetate
   Sodium Bicarbonate
   Colace
   Miconazole powder
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 35.2
C (95.4
   HR: 108 (91 - 108) bpm
   BP: 149/81(98) {130/63(78) - 176/90(112)} mmHg
   RR: 28 (28 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             56 mL
   PO:
             TF:
   IVF:
   56 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.43/41/78.[**Numeric Identifier 181**]/25/2
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Warm, paper thin skin with multiple ecchymoses
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Not responsive to verbal stimuli
   Labs / Radiology
   416 K/uL
   9.8 g/dL
   106 mg/dL
   3.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   59 mg/dL
   107 mEq/L
   145 mEq/L
   27
   15.9 K/uL
        [image002.jpg]
                            [**2150-1-25**]  05:45 AM
                            [**2150-1-25**]  07:01 AM
   WBC
   15.9
   Hct
   29.3
   27
   Plt
   416
   Cr
   3.0
   TCO2
   28
   Glucose
   103
   106
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:9.8 mg/dL, Mg++:1.5 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
   70year-old female with a history of Ulcerative Colitis initially
   admitted with shock, ARF, and altered mental status, now transferred
   back to the [**Hospital Unit Name 1**] for epistaxis.
   Epistaxis: Unclear etiology though source appears to be L middle
   turbinate. packing replaced by ENT. Hb stable thus far.
   - monitor q12 Hct, transfuse<25, check coags, active T&C
   - obtain peripheral access versus central line.
   - f/u ENT recs (needs packing for 5 days per ENT)
   - ancef while not taking PO then return to keflex for duration of nasal
   packing.
   - If patient bleeds, spray Afrin to nasal packing/nose and apply
   pressure by pinching nose 15 min. If it does not stop, page ENT
   consult.
   - humidification via mask
   Acute Renal Failure:  Slowly resolving and returning to baseline.
   Renal is following.
   - cont to monitor renal function
   - f/u renal recs
   - cont calcium acetate and sodium bicarb
   Altered mental status: Seems to be at her baseline. Resolving delirium
   secondary to shock. will continue risperidone when able to take po
   meds. Has T of 95.5, has been 98 on the floor prior to transfer to ICU,
   with elevated WBC count. [**Month (only) 51**] also be related to hypernatremia. TSH WNL
   this hospitalization, unlikely hypothyrodism contributing to low Temp.
   - reculture (blood, urine, stool, C. diff).
   - D5
 NS at 100 ccs/hr x1 L for maintenance fluids
   - PM lytes, re-check TSH
   - cont to follow psych recs
   - social work consult
   RUE swelling/erythema/blistering: Evaluated by plastic surgery. Most
   likely [**3-1**] dependent edema. Improving with ace bandage.
   - cont ace wrap to RUE
   - bacitracin to R hand blisters [**Hospital1 7**]
   Hypertension: unable to take Pos, changed metoprolol to IV prn if
   hypertensive.
   Schizoaffective disorder:
   - cont risperidone
   - f/u psych recs
   Hyperglycemia:  No documented history of diabetes.  Has been
   intermittently hyperglycemic on this admission.
   - continue to cover with insulin sliding scale
   Anemia:  Unclear etiology. Normocytic. Ostomy output has been guaiac
   positive during her admission. Hct stable currently.
   - active type and screen
   - transfusion goal of > 25 in setting of acute bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-1-25**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments: None indicated as patient currently not intubated
   Communication:  Comments:
   Code status: Full code
   Disposition:in ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  70 yo F w/ UC, anemia, schizoaffective
   d/o, and CRI, prior admit to [**Hospital Unit Name 1**] during this hospitalization with
   shock and ARF readmitted overnight with recurrent epistaxis. Nasal
   packing removed by ENT yesterday and was receiving humidified O2.
   Following deep nasal sx on floor had return of blood from
   post-nasaopharynx with intermittent desaturation. Nose repacked by ENT
   with stabilization of breathing.  Transferred to [**Hospital Unit Name 1**] for further care.
   Exam notable for Tm  95.4 BP 149/81 HR 108 RR 28  with sat 97% on 50%
   FM. --> 7.43/41/79
   Thin female, withdrawn, minimally interactive, intermittently asks
   questions, NAD, coarse BS, RR, benign abd, no edema
   Labs notable for WBC 15.9 (11) K, HCT 27 (st), na 147 (st)  3.8 K+ ,
   Cr 3.0, lactate 1.0.
   INR 1.3
   CXR with clear CP angles, improved L base, rotated
   Problems include:
     * epistaxis
     * leukcoytosis
     * hypothermia
     * hypernatremia
     * acute on CRI (improving to baseline)
     * schizoaffective d/o, altered MS, limited interaction--unchanged
     * htn
     * anemia (stable)
   Epistaxis stabilized after repacking by ent with plan to reassess for
   removal of packing in 5 days. Hct remains stable. Agree with plan to
   continue h/h monitoring Q12, empiric antibx coverage per ent, use of
   afrin as needed if bleeding recurs.  Unclear etiology for recurrent
   bleeding--plts stable, hct stable, will repeat coags, and maintain
   active type and cross. Pt with 1 PIV and will needs improved access,
   though no acute indication for central line.  --will consult for picc
   today.  Has had extensive w/u for infection and mental status during
   the course of this admission.  Noted to have recurrent hypothermia on
   trasnfer and now with leukocytosis --TSH had been wnl and no evidence
   of adrenal insufficiency(checked)--will repeat infection w/u and check
   for c diff though no diarrhea and benign abd. Follow temp curve. Is s/p
   empiric antibxs and also treated with azithro for sinusitis with neg
   infection work up. Appears dry on exam and is midlly hypernatremic--was
   taking PO's on floor.  NPO now in setting of bleeding.  Will start
   maintenance fluids and monitor.  Repeat lytes.  Renal fx near
   baseline--will replace foley to assess urine output and continue home
   renal meds.
   Remainder of plan as outlined above.
   remains in ICU for close monitoring.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2150-1-25**] 13:46 ------

2150-01-26 07:43:00 Physician Resident Progress Note
Chief Complaint: Epistaxis
   24 Hour Events:
 PAN CULTURE - At [**2150-1-25**] 12:00 PM
   BLOOD, URINE, STOOL
 PICC LINE - START [**2150-1-25**] 03:08 PM
   -CXR for PICC placement with incr RLL opacity. Started on vanco, zosyn
   for HCAP (?aspiration) - WBC also trendign up to 25 from 15
   -PICC successfully placed
   -Hct from 29 to 22 after epistaxis. Transfused 1 unit in evening. Of
   note, she could not consent and there is no HCP. Social [**Name2 (NI) **] note says
   ok to transfuse if medically indicated
   -remained normotensive after transfer to unit
   -Meds changed to IV as pt cannot swallow with AMS. Speech and swallow
   ordered for am
   - TSH incr at 6.3, T3 decr at 67. TSH was normal [**1-15**] ?etiology
   - Stool neg for C Diff, Blood and urine cultures pending
   - D5 1/2 NS at 100cc/hr corrects Na from 147 to 143 and was cont at
   75cc/hr overnight
   - Coags nl with INR 1.3
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-1-25**] 11:00 PM
   Cefazolin - [**2150-1-26**] 06:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-26**] 06:07 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2150-1-25**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-1-25**] 05:10 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Limited [**3-1**] pt with somnolence and limited ability
   to communicate. Denies pain
   Flowsheet Data as of  [**2150-1-26**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.7
   HR: 66 (54 - 106) bpm
   BP: 127/85(96) {93/46(58) - 150/88(103)} mmHg
   RR: 19 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,769 mL
                                                                    480 mL
   PO:
             TF:
   IVF:
                                                                  1,419 mL
                                                                    480 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    350 mL
                                                                    180 mL
   Urine:
                                                                    350 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,419 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   305 K/uL
   8.9 g/dL
   123 mg/dL
   2.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   58 mg/dL
   109 mEq/L
   143 mEq/L
   26.0 %
   20.5 K/uL
        [image002.jpg]
                            [**2150-1-25**]  05:45 AM
                            [**2150-1-25**]  07:01 AM
                            [**2150-1-25**]  05:14 PM
                            [**2150-1-26**]  03:04 AM
   WBC
   15.9
   25.3
   20.5
   Hct
   29.3
   27
   22.1
   26.0
   Plt
   [**Telephone/Fax (3) 4661**]
   Cr
   3.0
   2.8
   2.7
   TCO2
   28
   Glucose
   103
   106
   151
   123
   Other labs: PT / PTT / INR:15.3/50.9/1.4, Lactic Acid:1.0 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 EPISTAXIS (NOSEBLEED)
   70year-old female with a history of Ulcerative Colitis initially
   admitted with shock, ARF, and altered mental status, now transferred
   back to the [**Hospital Unit Name 1**] for epistaxis.
   Epistaxis: Unclear etiology though source appears to be L middle
   turbinate. packing still in place and bleeding stopped. Transfused 1 u
   Prbcs over night with good bump in Hct.
   - ENT and neurosurg exploring options for embolization- will discuss
   with them today
   - monitor q12 Hct, transfuse<25, active T&C
   - d/c ancef as  covered by Zosyn and Vanco for HCAP
   - If patient bleeds, spray Afrin to nasal packing/nose and apply
   pressure by pinching nose 15 min. If it does not stop, page ENT
   consult.
   - humidification via mask- Nasal cannula is contraindicated for this pt
   [**Name (NI) 4665**] first seen on Xray after PICC placement yesterday afternoon.
   ? HCAP vs aspiration during nose bleed.
   -Cont Vanco and Zosyn for now
   -check am Vanco level considering renal failure
   -f/u sputum cx
   -speech and swallow this am cleared pt for thin liquids and ground
   food- ordered diet.  Cont maintenance IVF for now as unknown how much
   po pt will be able to take.
   Acute Renal Failure:  Slowly trending down to 2.7 this am.
   - cont to monitor renal function
   - cont calcium acetate and sodium Bicarb once pt taking po
   Altered mental status: ? Baseline. Pt pt
s friend yesterday she was
   conversational and close to baseline. TFT
s yesterday consistent with
   sick thyroid  and TSH nl [**1-15**].
   - f/u cultures
   - D5
 NS at 75 ccs/hr x1 L for maintenance fluids
   - psych signed off- may need to reconsult on floor
   - social work consult- ? HCP issues. [**Name2 (NI) **] consent in chart for blood
   products but in past given [**3-1**] medical necessity
   -PT consult ordered- pt stating weak and
t move
   RUE swelling/erythema/blistering: Evaluated by plastic surgery. Most
   likely [**3-1**] dependent edema. Improving with ace bandage.
   - cont ace wrap to RUE
   - bacitracin to R hand blisters [**Hospital1 7**]
   Hypertension: Well controlled currently. Once able to take po, change
   IV to PO metoprolol
   Schizoaffective disorder:
   - psych signed off- may need to reconsult on floor
   - cont risperidone
   Hyperglycemia:  No documented history of diabetes.  Has been
   intermittently hyperglycemic on this admission.
   - continue to cover with insulin sliding scale
   Anemia: Hct up to 26 s/p 1u PRBCs overnight.
   - active type and screen
   - transfusion goal of > 25 in setting of acute bleed
   ICU Care
   Nutrition: per speech and swallow- thin liquids and ground foods . Cont
   maintenance D5
 NS until taking good PO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-1-25**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now- possible transfer to floor in afternoon

2150-01-27 07:19:00 Physician Resident Progress Note
Chief Complaint: 70year-old female with a history of Ulcerative Colitis
   initially admitted with shock, ARF, and altered mental status, now
   transferred back to the [**Hospital Unit Name 1**] for epistaxis. Now also being treated for
   aspiration PNA.
   24 Hour Events:
   - S/S evaluation in the morning revealed that patient was okay for a
   ground diet with thin liquids; however, nursing concern due to patient
   cough with liquids followed by oxygen desaturation. Patient was thus
   made NPO again.
   - Patient was suseqeuntly put on facial mask with inability to liberate
   from high flow oxygen, CXR was done and showed no new areas of
   aspiration.
   - Plan for angiography and embolization on [**1-27**], though unable to find
   a guardian for consent during the day, SW is working on this issue.
   - Patient receiving IVF with bicarb for prehydration for angiography
   - PM HCT and lytes were stable and no interventions were needed
   - Patient with some agitation (calling out) in evening hours and
   received one time dose of 0.5 mg risperidone followed by 0.5 mg IV
   haloperidol
   Patient unable to provide history: delerium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-1-25**] 11:00 PM
   Cefazolin - [**2150-1-26**] 06:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-27**] 05:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-1-27**] 12:19 AM
   Haloperidol (Haldol) - [**2150-1-27**] 12:30 AM
   Metoprolol - [**2150-1-27**] 05:23 AM
   Other medications:
   Risperidone 1 mg PO BID
   Metoprolol 5 mg IV q6H
   Oxymetolazone
   Compazine IV
   Nifedipine 10 mg PO q8H
   Epopoeitin alfa qMWF 4000 U
   Bacitracin
   Calcium Acetate/Sodium Bicarbonate
   Colace
   Miconazole Powder
   Inuslin sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-27**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 78 (65 - 92) bpm
   BP: 164/91(108) {112/59(70) - 168/103(136)} mmHg
   RR: 23 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,810 mL
                                                                    640 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,750 mL
                                                                    640 mL
   Blood products:
   Total out:
                                                                    589 mL
                                                                    300 mL
   Urine:
                                                                    589 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,221 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, paper thin with ecchymeses
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   330 K/uL
   8.9 g/dL
   418 mg/dL
   2.6 mg/dL
   36 mEq/L
   3.6 mEq/L
   49 mg/dL
   97 mEq/L
   139 mEq/L
   27.0 %
   15.4 K/uL
        [image002.jpg]
                            [**2150-1-25**]  05:45 AM
                            [**2150-1-25**]  07:01 AM
                            [**2150-1-25**]  05:14 PM
                            [**2150-1-26**]  03:04 AM
                            [**2150-1-26**]  04:17 PM
                            [**2150-1-27**]  04:36 AM
   WBC
   15.9
   25.3
   20.5
   15.4
   Hct
   29.3
   27
   22.1
   26.0
   29.5
   27.0
   Plt
   [**Telephone/Fax (3) 4681**]30
   Cr
   3.0
   2.8
   2.7
   2.7
   2.6
   TCO2
   28
   Glucose
   103
   106
   151
   123
   103
   418
   Other labs: PT / PTT / INR:16.5/34.3/1.5, Lactic Acid:1.0 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Vanc T 17.6
   Micro:
   C. diff neg, blood cx
s neg, urine yeast
   Assessment and Plan
   70 year-old female with a history of Ulcerative Colitis initially
   admitted with shock, ARF, and altered mental status, now transferred
   back to the [**Hospital Unit Name 1**] for epistaxis.
   Epistaxis:  Likely source L middle turbinate. Transfused 1 u PRBCs this
   [**Hospital Unit Name 1**] admission, Hct stable 26-28. Pt does not appear to have capacity
   to agree to procedures, ICU team + social work looking into court
   appointed guardianship at this time.
   - ENT and neurosurg to take patient for angiography/embolization.
   Appreciate recs, asked ENT and neurosurgery to communicate with each
   other regarding emergent nature of procedure (if emergent, can be done
   without consent). Pt likely stable enough at this point to undergo
   embolization (Hct stable).
   - monitor q12 Hct, transfuse<25, active T&C
   - cont Zosyn and Vanco for HCAP (Ancef off for now)
   - If patient bleeds, spray Afrin to nasal packing/nose and apply
   pressure by pinching nose 15 min. If it does not stop, page ENT
   consult.
   - humidification via mask- Nasal cannula is contraindicated for this pt
   [**Name (NI) 4665**] RML on cxr. HCAP versus aspiration of OP contents/blood.
   -Cont Vanco and Zosyn for now (day [**4-5**])
   - will need Vanc trough prior to 4^th dose (in AM of [**1-30**]).
   - attempt to obtain sputum for speciation (induced versus expectorated,
   depending on what can be obtained for pt cooperation)
   - aspiration precautions and maintenance fluids for now (passed S&S but
   unable to take meds w/o cough).
   Hypertension: Iincreased metoprolol to 10 mg IV q6H for SBPs in the
   160s.
   Acute Renal Failure:  Slowly trending down to 2.6 this am.
   - cont to monitor renal function
   - cont calcium acetate and sodium Bicarb once pt taking po
   Altered mental status: Likely due to delerium from shock and recent
   uremia from renal failure. ? Baseline. Pt pt
s friend yesterday she was
   conversational and close to baseline. TFT
s yesterday consistent with
   sick thyroid  and TSH nl [**1-15**]. No evidence of infection on blood/urine
   cultures to date. Psychiatry was following, have signed off.
   - continue D5
 NS at 75 ccs/hr x1 L for maintenance fluids
   - social work consulted for HCP issues, appreciate recs
   - f/u PT recs
    - IV haldol/risperidone prn for agitation/sundowning.
   RUE swelling/erythema/blistering: Evaluated by plastic surgery. Most
   likely [**3-1**] dependent edema. Improving with ace bandage.
   - cont ace wrap to RUE
   - bacitracin to R hand blisters [**Hospital1 7**]
   Schizoaffective disorder:
   - psych signed off- may need to reconsult on floor
   - cont risperidone
   Hyperglycemia:  No documented history of diabetes.  Has been
   intermittently hyperglycemic on this admission.
   - continue to cover with insulin sliding scale
   Anemia: Hct up to 26 s/p 1u PRBCs overnight.
   - active type and screen
   - transfusion goal of > 25 in setting of acute bleed
   ICU Care
   Nutrition:
   Comments: ground solids, thin liquids per S&S, although NPO currently
   b/c of possible procedure and coughing up meds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-1-25**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:  Not indicated
   Comments:
   Communication:  Comments: none, pursuing guardianship for procedure
   consent
   Code status: Full code
   Disposition: In ICU

2150-01-28 08:12:00 Physician Resident Progress Note
Chief Complaint: Epistaxis
   24 Hour Events:
   - needs vanc trough prior to 4th dose (on [**1-30**])
   - ENT attending deemed procedure is emergent -> will need to go West
   for procedure in AM
   - PM hct stable at 29.3
   - continue to work w/ SW to obtain court appointed guardianship
   - still unable to obtain expectorated/induced sputum cx
   - c/o bilateral "thigh and leg" pain. neg [**Last Name (un) 71**] sign. no extremity
   more swollen than other. on hep sq. ?arthritis/deconditioning? wrote
   for liquid tylenol.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2150-1-26**] 06:07 AM
   Vancomycin - [**2150-1-27**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-28**] 05:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-1-27**] 11:51 PM
   Metoprolol - [**2150-1-28**] 05:37 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis
   Musculoskeletal: Joint pain, leg pain
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2150-1-28**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 84 (57 - 90) bpm
   BP: 183/90(113) {138/64(83) - 184/119(136)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,411 mL
                                                                    699 mL
   PO:
             TF:
   IVF:
                                                                  1,411 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    310 mL
   Urine:
                                                                  1,030 mL
                                                                    310 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    -19 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   352 K/uL
   9.7 g/dL
   126 mg/dL
   2.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   47 mg/dL
   106 mEq/L
   144 mEq/L
   29.1 %
   12.0 K/uL
        [image002.jpg]
                            [**2150-1-25**]  05:45 AM
                            [**2150-1-25**]  07:01 AM
                            [**2150-1-25**]  05:14 PM
                            [**2150-1-26**]  03:04 AM
                            [**2150-1-26**]  04:17 PM
                            [**2150-1-27**]  04:36 AM
                            [**2150-1-27**]  04:53 PM
                            [**2150-1-28**]  04:10 AM
   WBC
   15.9
   25.3
   20.5
   15.4
   12.0
   Hct
   29.3
   27
   22.1
   26.0
   29.5
   27.0
   29.3
   29.1
   Plt
   [**Telephone/Fax (3) 4681**]30
   352
   Cr
   3.0
   2.8
   2.7
   2.7
   2.6
   2.7
   TCO2
   28
   Glucose
   103
   106
   151
   123
   103
   418
   126
   Other labs: PT / PTT / INR:18.7/42.9/1.7, Lactic Acid:1.0 mmol/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 EPISTAXIS (NOSEBLEED)
   70 year-old female with a history of Ulcerative Colitis initially
   admitted with shock, ARF, and altered mental status, now transferred
   back to the [**Hospital Unit Name 1**] for epistaxis.
   Epistaxis:  Likely source L middle turbinate. Transfused 1 u PRBCs this
   [**Hospital Unit Name 1**] admission, Hct stable 26-28- 29.1 today. Pt does not appear to
   have capacity to agree to procedures, ICU team + social work looking
   into court appointed guardianship at this time.
   - ENT and neurosurg to take patient for angiography/embolization today.
   Has bed in MICU on [**Location 4711**] monitor q12 Hct, transfuse<25, active T&C
   - cont Zosyn and Vanco for HCAP (Ancef off for now)
   - If patient bleeds, spray Afrin to nasal packing/nose and apply
   pressure by pinching nose 15 min. If it does not stop, page ENT
   consult.
   - humidification via mask- Nasal cannula is contraindicated for this pt
   -INR 1.7 today- SC Vit K x1 ordered for today
   -needs Bicarb 75CC/hr and IV NAC prior to procedure- not currently
   awake enough for adequate PO
   Pneumonia- RML on cxr. HCAP versus aspiration of OP contents/blood.
   -Cont Vanco and Zosyn for now (day [**5-6**])- needs ID approval for Vanco
   - will need Vanc trough prior to 4th dose (in AM of [**1-30**]).
   - attempt to obtain sputum for speciation (induced versus expectorated,
   depending on what can be obtained for pt cooperation)
   - aspiration precautions and maintenance fluids for now (passed S&S but
   unable to take meds w/o cough).
   Hypertension: metoprolol to 10 mg IV q6H with holding parameters
   Acute Renal Failure:  Stable likely this is baseline today 2.7
   - cont to monitor renal function
   - cont calcium acetate and sodium Bicarb if pt able to take po
   Altered mental status: ? etiology. Pt per friend who has visited is
   close to baseline. TFT
s this [**Hospital Unit Name 1**] admission consistent with sick
   thyroid  and TSH nl [**1-15**]. No evidence of infection on blood/urine
   cultures to date. Psychiatry was following, have signed off.
   - continue D5
 NS at 75 ccs/hr x1 L for maintenance fluids
   - social work consulted for HCP issues- likely needs guardianship,
   appreciate recs
   - f/u PT recs
    - IV haldol/risperidone prn for agitation/sundowning.
   RUE swelling/erythema/blistering: Evaluated by plastic surgery. Most
   likely [**3-1**] dependent edema. Improving with ace bandage.
   - cont ace wrap to RUE
   - bacitracin to R hand blisters [**Hospital1 7**]
   Schizoaffective disorder:
   - psych signed off- may need to reconsult on floor
   - cont risperidone [**Hospital1 7**] (dissolvable tabs)
   Hyperglycemia:  No documented history of diabetes.  Has been
   intermittently hyperglycemic on this admission.
   - continue to cover with insulin sliding scale
   Anemia: Hct up to 26 s/p 1u PRBCs overnight.
   - active type and screen
   - transfusion goal of > 25 in setting of acute bleed
   ICU Care
   Nutrition: Regular diet- S and S cleared on [**1-26**] but pt likely still
   aspirating and often too somnolent to take po
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-1-25**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU- transfer west today for neurorad procedure and CC6
   MICU admission thereafter.

2150-01-29 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Underwent embolization without further epistaxis
   - Extubated without complication
   - Received NS 250cc Bolus x3 for decreased UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-1-27**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-28**] 05:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-1-28**] 11:09 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-29**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 65 (56 - 87) bpm
   BP: 119/61(75) {106/49(66) - 178/92(115)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,660 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  2,660 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    225 mL
   Urine:
                                                                  1,005 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,505 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 321 (0 - 553) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   299 K/uL
   8.3 g/dL
   82 mg/dL
   2.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   40 mg/dL
   105 mEq/L
   144 mEq/L
   24.0 %
   8.1 K/uL
        [image002.jpg]
                            [**2150-1-25**]  07:01 AM
                            [**2150-1-25**]  05:14 PM
                            [**2150-1-26**]  03:04 AM
                            [**2150-1-26**]  04:17 PM
                            [**2150-1-27**]  04:36 AM
                            [**2150-1-27**]  04:53 PM
                            [**2150-1-28**]  04:10 AM
                            [**2150-1-28**]  05:46 PM
                            [**2150-1-28**]  08:15 PM
                             [**2150-1-29**]  01:43 AM
   WBC
   25.3
   20.5
   15.4
   12.0
   8.1
   Hct
   27
   22.1
   26.0
   29.5
   27.0
   29.3
   29.1
   24.5
   25.4
   24.0
   Plt
   348
   305
   330
   352
   299
   Cr
   2.8
   2.7
   2.7
   2.6
   2.7
   2.5
   TCO2
   28
   Glucose
   106
   151
   123
   103
   418
   126
   82
   Other labs: PT / PTT / INR:13.9/32.9/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 EPISTAXIS (NOSEBLEED)
   70F with a history of Ulcerative Colitis initially admitted with shock,
   ARF, and altered mental status, now transferred back to the [**Hospital Unit Name 1**] for
   epistaxis.
   Epistaxis:  Likely source L middle turbinate. Transfused 1 u PRBCs this
   [**Hospital Unit Name 1**] admission, Hct stable 26-28- 29.1 today. Pt does not appear to
   have capacity to agree to procedures, ICU team + social work looking
   into court appointed guardianship at this time.
   - ENT and neurosurg to take patient for angiography/embolization today.
   Has bed in MICU on [**Location 4711**] monitor q12 Hct, transfuse<25, active T&C
   - cont Zosyn and Vanco for HCAP (Ancef off for now)
   - If patient bleeds, spray Afrin to nasal packing/nose and apply
   pressure by pinching nose 15 min. If it does not stop, page ENT
   consult.
   - humidification via mask- Nasal cannula is contraindicated for this pt
   -INR 1.7 today- SC Vit K x1 ordered for today
   -needs Bicarb 75CC/hr and IV NAC prior to procedure- not currently
   awake enough for adequate PO
   Pneumonia- RML on cxr. HCAP versus aspiration of OP contents/blood.
   -Cont Vanco and Zosyn for now (day [**5-6**])- needs ID approval for Vanco
   - will need Vanc trough prior to 4th dose (in AM of [**1-31**]).
   - attempt to obtain sputum for speciation (induced versus expectorated,
   depending on what can be obtained for pt cooperation)
   - aspiration precautions and maintenance fluids for now (passed S&S but
   unable to take meds w/o cough).
   Hypertension: metoprolol to 10 mg IV q6H with holding parameters
   Acute Renal Failure:  Stable likely this is baseline today 2.7
   - cont to monitor renal function
   - cont calcium acetate and sodium Bicarb if pt able to take po
   Altered mental status: ? etiology. Pt per friend who has visited is
   close to baseline. TFT
s this [**Hospital Unit Name 1**] admission consistent with sick
   thyroid  and TSH nl [**1-15**]. No evidence of infection on blood/urine
   cultures to date. Psychiatry was following, have signed off.
   - continue D5
 NS at 75 ccs/hr x1 L for maintenance fluids
   - social work consulted for HCP issues- likely needs guardianship,
   appreciate recs
   - f/u PT recs
    - IV haldol/risperidone prn for agitation/sundowning.
   RUE swelling/erythema/blistering: Evaluated by plastic surgery. Most
   likely [**3-2**] dependent edema. Improving with ace bandage.
   - cont ace wrap to RUE
   - bacitracin to R hand blisters [**Hospital1 7**]
   Schizoaffective disorder:
   - psych signed off- may need to reconsult on floor
   - cont risperidone [**Hospital1 7**] (dissolvable tabs)
   Hyperglycemia:  No documented history of diabetes.  Has been
   intermittently hyperglycemic on this admission.
   - continue to cover with insulin sliding scale
   Anemia: Hct up to 26 s/p 1u PRBCs overnight.
   - active type and screen
   - transfusion goal of > 25 in setting of acute bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-1-25**] 03:08 PM
   20 Gauge - [**2150-1-28**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-01-29 09:41:00 Physician Attending Progress Note
Chief Complaint: epistaxis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2150-1-28**] 02:53 PM
   Successful embolization yesterday
   Extubated without difficulty
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-1-27**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-28**] 05:37 AM
   Piperacillin - [**2150-1-29**] 06:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-1-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-29**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 70 (56 - 94) bpm
   BP: 119/53(70) {106/49(66) - 178/92(115)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,660 mL
                                                                    417 mL
   PO:
             TF:
   IVF:
                                                                  2,660 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    285 mL
   Urine:
                                                                  1,005 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,505 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 321 (0 - 553) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.1 L/min
   Physical Examination
   Gen: lying in bed
   HEENT:  o/p dry
   CV: RR
   Chest: bibasilar rhonci
   Abd: soft NT
   Ext: 3+ edema arms and legs
   Neuro: very hard of hearing,
   Labs / Radiology
   8.3 g/dL
   299 K/uL
   82 mg/dL
   2.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   40 mg/dL
   105 mEq/L
   144 mEq/L
   24.0 %
   8.1 K/uL
        [image002.jpg]
                            [**2150-1-25**]  07:01 AM
                            [**2150-1-25**]  05:14 PM
                            [**2150-1-26**]  03:04 AM
                            [**2150-1-26**]  04:17 PM
                            [**2150-1-27**]  04:36 AM
                            [**2150-1-27**]  04:53 PM
                            [**2150-1-28**]  04:10 AM
                            [**2150-1-28**]  05:46 PM
                            [**2150-1-28**]  08:15 PM
                             [**2150-1-29**]  01:43 AM
   WBC
   25.3
   20.5
   15.4
   12.0
   8.1
   Hct
   27
   22.1
   26.0
   29.5
   27.0
   29.3
   29.1
   24.5
   25.4
   24.0
   Plt
   348
   305
   330
   352
   299
   Cr
   2.8
   2.7
   2.7
   2.6
   2.7
   2.5
   TCO2
   28
   Glucose
   106
   151
   123
   103
   418
   126
   82
   Other labs: PT / PTT / INR:13.9/32.9/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 EPISTAXIS (NOSEBLEED)
   1.       Epistaxis: s/p embolization, HCT stable, no further bleeding
   Unpacked., ENT following
   2.       Resp Failure: acute on chronic renal failure
   3.       HAP: [**Last Name (un) 4734**] [**6-5**] Vanco Zosyn, stable sats
   4.       Acute on Chronic renal failure:
   5.       Nutrition: passed speech and swallow, but unable to take now.
   Will start TPN wihile sorting it out- as she cannot get NGT (epistaxis)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-1-25**] 03:08 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  with pt, guardianship underway
   Code status: Full code
   Disposition :Transfer to floor